US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-bromobenzaldehyde (1.9 g) and 4-isopropylaniline (1.4 g) as starting materials, [(4-bromophenyl)methyl](4-isopropylphenyl)amine (1.8 g) was obtained. melting point: 30° C.

reactant | 4-bromobenzaldehyde | 1.9 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-isopropylaniline | 1.4 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | [(4-bromophenyl)methyl](4-isopropylphenyl)amine | 1.8 g | BrC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C16H18BrN
